US08563565B2
(1) Synthesis of ethyl 5-[4-(6-ethoxy-2,4-dimethylpyridin-3-yl)-2-nitrophenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate
Ethyl 5-[2-nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl][(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate obtained in Preparation Example 7-(2) (200 mg) was dissolved in a mixed solution of 1,4-dioxane (4 mL) and water (1 mL). 3-bromo-6-ethoxy-2,4-dimethylpyridine obtained in Preparation Example 51 (121 mg), Pd(PPh3)4 (25 mg) and cesium carbonate (428 mg) were added, and the mixture was reacted using a microwave reactor at 130° C. for three hours. The reaction mixture was returned to room temperature, followed by extraction with ethyl acetate. The organic layer was washed with brine and dried over anhydrous sodium sulfate. The desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/n-heptane, 30% to 100%) to give the title compound (97 mg).

reactant | Ethyl 5-[2-nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl][(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate | [N+](=O)([O-])C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C1=C(C=NN1[C@@H]1COCC1)C(=O)OCC | C22H28BN3O7
reactant | 3-bromo-6-ethoxy-2,4-dimethylpyridine | BrC=1C(=NC(=CC1C)OCC)C | C9H12BrNO
reactant | cesium carbonate | 428 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | Pd(PPh3)4 | 25 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 5-[4-(6-ethoxy-2,4-dimethylpyridin-3-yl)-2-nitrophenyl]-1-[(S)-tetrahydrofuran-3-yl]-1H-pyrazole-4-carboxylate | 97 mg | C(C)OC1=CC(=C(C(=N1)C)C1=CC(=C(C=C1)C1=C(C=NN1[C@@H]1COCC1)C(=O)OCC)[N+](=O)[O-])C | C25H28N4O6
